US08729081B2
Ethyl 1-((2-(4-chlorophenyl)-5-methyloxazol-4-yl)methyl)piperidine-4-carboxylate (1.0 g, 2.7 mmole) and LiOH (240 mg, 10 mmol) were mixed with MeOH (5 mL), THF (5 ml) and Water (2 mL). The mixture was stirred at 50 for 2 h. 4N HCl in dioxane (3 mL) was added the reaction solution was stirred at room temperature for another 1 h. The solvent was removed under vacuum to give 1-((2-(4-chlorophenyl)-5-methyloxazol-4-yl)methyl)piperidine-4-carboxylic acid as white solid, the crude product was used without purification.

reactant | Ethyl 1-((2-(4-chlorophenyl)-5-methyloxazol-4-yl)methyl)piperidine-4-carboxylate | 2.7 mmole, 1.0 g | ClC1=CC=C(C=C1)C=1OC(=C(N1)CN1CCC(CC1)C(=O)OCC)C | C19H23ClN2O3
reactant | LiOH | 10 mmol, 240 mg | [Li+].[OH-]
reactant | MeOH | 5 mL | CO | CH4O
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | Water | 2 mL | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-((2-(4-chlorophenyl)-5-methyloxazol-4-yl)methyl)piperidine-4-carboxylic acid | ClC1=CC=C(C=C1)C=1OC(=C(N1)CN1CCC(CC1)C(=O)O)C | C17H19ClN2O3
